US05114936
5-[2-(4-(4-Fluorobenzoyl)-1-piperidinyl)-ethyl]-3-(2-fluorphenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one salicylate
To a solution consisting of 5-(2-chloroethyl)-3-(2-fluorophenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one (2.5 g) and DMF (85 ml) was added anhydrous potassium carbonate (0.6 g), diisopropylethyl amine (2.2 ml), 4-(4-fluorobenzoyl)piperidine (2.3 g) and potassium iodide (70 mg) at room temperature with stirring. The flask was flushed with nitrogen and warmed to 80° C. for 19 hours. Upon cooling to room temperature, water and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous phase was extracted 3 times with ethyl acetate. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product.

reactant | 5-(2-chloroethyl)-3-(2-fluorophenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one | 2.5 g | ClCCC1CCC2=C(C(=NO2)C2=C(C=CC=C2)F)C1=O | C15H13ClFNO2
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethyl amine | 2.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(4-fluorobenzoyl)piperidine | 2.3 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | potassium iodide | 70 mg | [I-].[K+]
solvent | DMF | 85 ml | CN(C)C=O | C3H7NO
product | 5-[2-(4-(4-Fluorobenzoyl)-1-piperidinyl)-ethyl]-3-(2-fluorphenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one salicylate | C(C=1C(O)=CC=CC1)(=O)O.FC1=CC=C(C(=O)C2CCN(CC2)CCC2CCC3=C(C(=NO3)C3=C(C=CC=C3)F)C2=O)C=C1 | InChI=1S/C27H26F2N2O3.C7H6O3/c28-20-8-5-17(6-9-20)26(32)19-12-15-31(16-13-19)14-11-18-7-10-23-24(27(18)33)25(30-34-23)21-3-1-2-4-22(21)29;8-6-4-2-1-3-5(6)7(9)10/h1-6,8-9,18-19H,7,10-16H2;1-4,8H,(H,9,10)
